US08530493B2
A mixture of 5-ethoxy-indole (7.84 g, 48.7 mmol), 40% aqueous dimethylamine (9.25 ml, 73 mmol, 1.5 equiv), and 96% acetic acid (30 ml) is stirred at 0° C., then 36% aqueous formaldehyde solution (6.33 ml, 82.7 mmol, 1.7 equiv) is added drop wise. The mixture is allowed to come to room temperature, and after stirring overnight TLC (dichloromethane-methanol, 4:1) indicates the absence of starting material. 10% Aqueous NaOH (150 ml) is added and the mixture is stirred at room temperature for 2 h. It is then extracted with dichloromethane (4×200 ml), the organic layer is dried and concentrated. The residue is purified by column chromatography (dichloromethane-methanol, 4:1→methanol-aqueous ammonia 50:1) to give crude product (10.18 g, 96%), which is crystallized from acetone to provide pure (5-ethoxy-1H-indol-ylmethyl)-dimethyl-amine (10.2 g, 96%) as white crystals. M.p. 95-97° C.

reactant | 5-ethoxy-indole | 48.7 mmol, 7.84 g | C(C)OC=1C=C2C=CNC2=CC1 | C10H11NO
reactant | dimethylamine | 73 mmol, 9.25 ml, 1.5 equiv | CNC | C2H7N
reactant | formaldehyde | 82.7 mmol, 6.33 ml, 1.7 equiv | C=O | CH2O
reactant | NaOH | 150 ml | [OH-].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | (5-ethoxy-1H-indol-ylmethyl)-dimethyl-amine | 10.2 g, 96% | C(C)OC=1C=C2C=CN(C2=CC1)CN(C)C | C13H18N2O
